US07858640B2
[8-chloro-3-(4-chlorophenylsulfanyl)-4-difluoromethoxy-2-methyl-quinolin-5-yloxy]acetic Acid
A solution of [8-chloro-3-(4-chlorophenylsulfanyl)-4-difluoromethoxy-2-methylquinolin-5-yloxy]acetic acid methyl ester (0.044 g), tetrahydrofuran (3.0 mL) and 1.0 M aqueous sodium hydroxide solution (0.15 mL) was stirred at room temperature for 1 hour. The solution was acidified by the addition of 1.0 M aqueous hydrochloric acid and the solvent removed under reduced pressured. The residue was diluted with ethyl acetate and this mixture washed with water and then dried over magnesium sulfate. The solvent was removed under reduced pressure and the resulting solid washed with dichloromethane and dried to afford title compound, 0.024 g.

reactant | [8-chloro-3-(4-chlorophenylsulfanyl)-4-difluoromethoxy-2-methylquinolin-5-yloxy]acetic acid methyl ester | 0.044 g | COC(COC1=C2C(=C(C(=NC2=C(C=C1)Cl)C)SC1=CC=C(C=C1)Cl)OC(F)F)=O | C20H15Cl2F2NO4S
reactant | sodium hydroxide | 1.0 M, 0.15 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1.0 M | Cl | ClH
solvent | tetrahydrofuran | 3.0 mL | O1CCCC1 | C4H8O
product | [8-chloro-3-(4-chlorophenylsulfanyl)-4-difluoromethoxy-2-methyl-quinolin-5-yloxy]acetic Acid | ClC=1C=CC(=C2C(=C(C(=NC12)C)SC1=CC=C(C=C1)Cl)OC(F)F)OCC(=O)O | C19H13Cl2F2NO4S
